US08236756B2
Z-Val-Pro-6-aminoquinoline (H)
A solution of Z-Val-Pro-OH (217.4 mg, 0.62 mmol) in dichloromethane (1.5 mL), was successively treated at room temperature. with 1-hydroxibenzotriazol (84.3 mg, 0.62 mmol), N,N′-diisopropylcarbodiimide (97.2 μL, 0.62 mmol) and 6-aminoquinoline (75 mg, 0.52 mmol). The stirring was continued until the complete disappearance of the starting material (overnight). Then, the solvent was evaporated, the residue was dissolved in ethyl acetate and washed with citric acid (10%), NaHCO3 (10%) and brine. The organic layer was dried (Na2SO4) and evaporated leaving a residue that was purified by CCTLC on the chromatotron with hexane/ethyl acetate (1:4) to yield H (20 yield

reactant | Z-Val-Pro-OH | 0.62 mmol, 217.4 mg | N([C@@H](C(C)C)C(=O)N1[C@H](C(=O)O)CCC1)C(=O)OCC1=CC=CC=C1 | C18H24N2O5
reactant | 1-hydroxibenzotriazol | 0.62 mmol, 84.3 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N,N′-diisopropylcarbodiimide | 0.62 mmol, 97.2 μL | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | 6-aminoquinoline | 0.52 mmol, 75 mg | NC=1C=C2C=CC=NC2=CC1 | C9H8N2
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | Z-Val-Pro 6-aminoquinoline | N([C@@H](C(C)C)C(=O)N1[C@H](C(=O)O)CCC1)C(=O)OCC1=CC=CC=C1.NC=1C=C2C=CC=NC2=CC1 | InChI=1S/C18H24N2O5.C9H8N2/c1-12(2)15(16(21)20-10-6-9-14(20)17(22)23)19-18(24)25-11-13-7-4-3-5-8-13;10-8-3-4-9-7(6-8)2-1-5-11-9/h3-5,7-8,12,14-15H,6,9-11H2,1-2H3,(H,19,24)(H,22,23);1-6H,10H2/t14-,15-;/m0./s1
